US09029544B2
(51) (S)-ethyl 5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate
Obtained by starting from (S)-ethyl 5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane. A 2 M solution of caesium carbonate in water is used instead caesium fluoride. The reaction is run in tetrahydrofurane/toluene 4:1.

reactant | (S)-ethyl 5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C2CCOCC2)C(=O)OCC)I | C26H40INO4Si
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caesium fluoride | [F-].[Cs+]
solvent | water | O | H2O
solvent | tetrahydrofurane toluene | O1CCCC1.C1(=CC=CC=C1)C
product | (S)-ethyl 5′-(tert-butyldimethylsilyloxy)-4′-(3,6-dihydro-2H-pyran-4-yl)-2′-(tetrahydro-2H-pyran-4-yl)-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C2CCOCC2)C(=O)OCC)C=2CCOCC2 | C31H47NO5Si
